US09193720B2
To a solution of 2-(3,4-bis(3-methoxyphenethoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (40 mg, 0.079 mmol) in Acetone (5 mL)/Water (2.500 mL) was added sodium periodate (50.9 mg, 0.238 mmol) and ammonium acetate (18.34 mg, 0.238 mmol) and the resulting mixture was stirred at room temp for 16 h. Then, 1N HCl (1 mL) was added and the mixture was stirred for 1 h. The mixture was diluted with EtOAc (10 mL) and washed with brine (5 mL), dried (Na2SO4), filtered and concentrated to afford (3,4-bis(3-methoxyphenethoxy)phenyl)boronic acid (29 mg, 0.069 mmol, 87% yield) as white solid. 1H NMR (400 MHz, CDCl3)) δ 7.82 (dd, J=8.0, 1.3 Hz, 1H), 7.69 (d, J=1.3 Hz, 1H), 7.28-7.22 (m, 2H), 7.02 (s, 1H), 6.96-6.90 (m, 4H), 6.85-6.77 (m, 2H), 4.31 (q, J=7.3 Hz, 4H), 3.83 (s, 3H), 3.80 (s, 3H), 3.17 (dt, J=14.0, 7.2 Hz, 4H).

reactant | 2-(3,4-bis(3-methoxyphenethoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.079 mmol, 40 mg | COC=1C=C(CCOC=2C=C(C=CC2OCCC2=CC(=CC=C2)OC)B2OC(C(O2)(C)C)(C)C)C=CC1 | C30H37BO6
reactant | sodium periodate | 0.238 mmol, 50.9 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | ammonium acetate | 0.238 mmol, 18.34 mg | C(C)(=O)[O-].[NH4+]
reactant | HCl | 1N, 1 mL | Cl | ClH
solvent | Acetone | 5 mL | CC(=O)C | C3H6O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | Water | 2.500 mL | O | H2O
product | (3,4-bis(3-methoxyphenethoxy)phenyl)boronic acid | 0.069 mmol, 29 mg, 87% yield | COC=1C=C(CCOC=2C=C(C=CC2OCCC2=CC(=CC=C2)OC)B(O)O)C=CC1 | C24H27BO6
